US08609847B2
(1) Preparation of tert-butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-6-yloxy)piperidine-1-carboxylate
A suspension of 6-hydroxy-3,4-dihydroquinolin-2(1H)-one (5.0 g), tert-butyl 4-(methanesulfonyloxy)piperidine-1-carboxylate (13 g) and potassium carbonate (5.1 g) in N,N-dimethylformamide (30 mL) was stirred at 100° C. for 20 hours. The reaction mixture was cooled to room temperature, diluted with water and extracted with chloroform. The organic layer was washed with brine and concentrated under reduced pressure. The resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: chloroform/hexane=4/1) to give the titled compound (6.9 g, 65%) as a colorless solid.

reactant | 6-hydroxy-3,4-dihydroquinolin-2(1H)-one | 5.0 g | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | tert-butyl 4-(methanesulfonyloxy)piperidine-1-carboxylate | 13 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | potassium carbonate | 5.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-6-yloxy)piperidine-1-carboxylate | 6.9 g, 65% | O=C1NC2=CC=C(C=C2CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H26N2O4
